US07601716B2
1-(2,5-Difluorobenzyl)-3,3-dimethyl-7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
1-(2,5-Difluorobenzyl)-7-iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (45 mg) was reacted with (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a white solid (55% yield). M.p. 204-206° C., LCMS: m/z=506.16 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.56 (s, 6H), 2.33 (s, 3H), 2.36-2.54 (m, 4H), 3.36-3.54 (m, 2H), 3.73-3.83 (m, 2H), 5.14 (s, 1H), 5.21 (s, 2H), 6.84-6.88 (m, 1H), 6.93-6.98 (m, 1H), 7.07-7.13 (m, 1H), 7.19 (d, J=1.5 Hz, 1H), 7.43 (m, 4H), 8.03 (d, J=2.0 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-7-iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 45 mg | FC1=C(CN2C3=C(NC(C2=O)(C)C)N=CC(=C3)I)C=C(C=C1)F | C16H14F2IN3O
reactant | (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
product | 1-(2,5-Difluorobenzyl)-3,3-dimethyl-7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 55% yield | FC1=C(CN2C3=C(NC(C2=O)(C)C)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C)C=C(C=C1)F | C28H29F2N5O2
